US06414149B1
Step A: 2-Pyridin-3-yl-pyrimidin-4-yl trifluoromethanesulfonate
To a solution of 2-pyridin-3-yl-3H-pyrimidin-4-one (150 mg, 0.87 mmol; J. Med. Chem. 1990, 33,1230) and triethylamine (0.13 mL, 0.95 mmol) in dichloromethane (3 mL) was added dropwise a solution of trifluoromethanesulfonic anhydride (0.22 mL, 0.91 mmol) in dichloromethane (2 mL) at 0° C. under nitrogen atmosphere. The mixture was allowed to stir for 30 min at 0° C. then diluted with dichloromethane and washed once with water and the aqueous layer was extracted twice with dichloromethane. The organic extracts were combined, washed sequentially with saturated aqueous sodium carbonate and saturated aqueous sodium chloride, dried over sodium sulfate and filtered. The filtrate was evaporated to give the title compound of Example 201, Step A as an orange oil, 0.22 g (95%), that was used without further purification.

reactant | 2-pyridin-3-yl-3H-pyrimidin-4-one | 0.87 mmol, 150 mg | N1=CC(=CC=C1)C1=NC=CC(N1)=O | C9H7N3O
reactant | triethylamine | 0.95 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.91 mmol, 0.22 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-Pyridin-3-yl-pyrimidin-4-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=NC(=NC=C1)C=1C=NC=CC1)(F)F | C10H6F3N3O3S
